US04636516
To 20 ml of benzene were added 0.64 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-mercaptothiazole and 0.32 g of bromoacetic acid and then 0.5 g of triethylamine was added dropwise to the mixture with stirring. After one hour, triethylamine hydrobromide thus precipitated was filtered off and the benzene solution was extracted with 10 ml of a 2% sodium hydroxide solution. The aqueous extract was acidified by the addition of hydrochloric acid and extracted with ether. The ether solution was dried over anhydrous sodium sulfate and concentrated. The crystals thus obtained were recrystallized from benzene to provide 0.52 g of [4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-thiazolylthio]acetic acid.

reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
reactant | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-mercaptothiazole | 0.64 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C(SC1)S | C17H23NOS2
reactant | bromoacetic acid | 0.32 g | BrCC(=O)O | C2H3BrO2
solvent | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
product | [4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-thiazolylthio]acetic acid | 0.52 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C(SC1)SCC(=O)O | C19H25NO3S2
